US04304778
4-{N-ethyl-N-[2-(2-methylphenoxy)ethyl]amino}-quinazoline (Compound No. 2)
To a solution of 2.5 g (0.015 mole) of 4-chloroquinazoline in toluene were added 2.7 g (0.015 mole) of N-ethyl-2-(2-methylphenoxy)ethylamine and 1.5 g (0.015 mole) of triethylamine. The mixture was then refluxed, with stirring, for 5.5 hours. After completion of the reaction, the toluene was removed from the reaction mixture by evaporation under reduced pressure. Water was then added to the residue and the mixture was extracted with chloroform and the extract was dried. The chloroform was removed by evaporation and the crystals which separated out were recrystallized from isopropanol, giving 2.5 g (54%) of the desired Compound No. 2, in the form of colourless prisms melting at 85°-87° C.

reactant | 4-chloroquinazoline | 0.015 mole, 2.5 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | N-ethyl-2-(2-methylphenoxy)ethylamine | 0.015 mole, 2.7 g | C(C)NCCOC1=C(C=CC=C1)C | C11H17NO
reactant | triethylamine | 0.015 mole, 1.5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-{N-ethyl-N-[2-(2-methylphenoxy)ethyl]amino}-quinazoline | 2.5 g, 54% | C(C)N(CCOC1=C(C=CC=C1)C)C1=NC=NC2=CC=CC=C12 | C19H21N3O
